US06900336B2
To a −78° C. THF solution (5 mL) of dimethylmethyl phosphonate (0.54 mL, 4.98 mmol) was added 1.6M BuLi (3.11 mL, 4.98 mmol). After stirring 40 min. a THF solution (5 mL) of 3-(dimethoxy-phenyl-methyl)-benzoic acid methyl ester (951 mg, 3.32 mmol) was added. After 15 min. the reaction mixture was warmed to room temperature. The reaction mixture was stirred an additional 1 h at room temperature and then quenched by the addition of NaHCO3 solution. Dilution with ethyl acetate was followed by washing with NaHCO3. The organic layer was dried over MgSO4, filtered and concentrated. Flash chromatography (15 ethyl acetate: 1 hexanes+0.25% triethyl amine) provided {2-[3-(dimethoxy-phenyl-methyl)-phenyl]-2-oxo-ethyl}-phosphonic acid dimethyl ester (784 mg, 2.07 mmol) as an oil. Step 3

reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | dimethylmethyl phosphonate | 4.98 mmol, 0.54 mL | P(OC(C)C)([O-])=O
reactant | BuLi | 4.98 mmol, 1.6M, 3.11 mL | [Li]CCCC
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | 3-(dimethoxy-phenyl-methyl)-benzoic acid methyl ester | 3.32 mmol, 951 mg | COC(C1=CC(=CC=C1)C(C1=CC=CC=C1)(OC)OC)=O | C17H18O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {2-[3-(dimethoxy-phenyl-methyl)-phenyl]-2-oxo-ethyl}-phosphonic acid dimethyl ester | 2.07 mmol, 784 mg | COP(OC)(=O)CC(=O)C1=CC(=CC=C1)C(C1=CC=CC=C1)(OC)OC | C19H23O6P
